US04716168
B. 2-(2-Furyl)-5-nitro-benzimidazole
A stirred mixture of N-(2-amino-4-nitrophenyl)-2-furamide (125 g, 0.5 mole) in a solution of concentrated hydrochloric acid (400 m) and 850 ml of water is heated on a steam bath for 3 hr. The reaction mixture after pouring into 4 liters of ice is treated with concentrated ammonium hyroxide until basic. The intermediate is filtered to give 104 g (91 percent).

reactant | N-(2-amino-4-nitrophenyl)-2-furamide | 0.5 mole, 125 g | NC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)C=1OC=CC1 | C11H9N3O4
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hyroxide | [OH-].[NH4+]
solvent | water | 850 ml | O | H2O
product | 2-(2-Furyl)-5-nitro-benzimidazole | O1C(=CC=C1)C=1NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C11H7N3O3
